US04672116
4-Amino-8-chloro-2-hydrazino-5,6-dimethoxyquinazoline 1/4 hydrate
A mixture of 4-amino-2,8-dichloro-5,6-dimethoxyquinazoline (1.5 g, 0.0054 moles), anhydrous hydrazine (5 ml, 0.16 moles) and methanol (100 ml) was heated at reflux for 8 hours and stirred at room temperature for 16 hours. The mixture was cooled to 0° C. and the precipitate which formed was collected by filtration. Recrystallization of the solid from methanol followed by drying under vacuum at 55° C. afforded the product (1.12 g), mp 168°-169° C.

reactant | 4-amino-2,8-dichloro-5,6-dimethoxyquinazoline | 0.0054 moles, 1.5 g | NC1=NC(=NC2=C(C=C(C(=C12)OC)OC)Cl)Cl | C10H9Cl2N3O2
reactant | hydrazine | 0.16 moles, 5 ml | NN | H4N2
solvent | methanol | 100 ml | CO | CH4O
product | 4-Amino-8-chloro-2-hydrazino-5,6-dimethoxyquinazoline | 1.12 g | NC1=NC(=NC2=C(C=C(C(=C12)OC)OC)Cl)NN | C10H12ClN5O2
